* EL34 / 6CA7 — output pentode (~25 W per tube, classic Marshall / Hi-Fi).
*
* Norman Koren pentode model. Approximate parameters from Mullard /
* Philips curves; production-grade fitting requires per-batch
* measurements (T031).
*
* tube_type: pentode
* Pins: P (plate), G2 (screen), G (grid 1), K (cathode).
.SUBCKT EL34 P G2 G K
* Koren parameters: MU=11 EX=1.35 KG1=650 KG2=4500 KP=60 KVB=24
E1 7 0 VALUE={V(G2,K)/60*LN(1+EXP(60*(1/11+V(G,K)/V(G2,K))))}
G1 P K VALUE={(PWRS(V(7),1.35)+PWRS(V(7),1.35))/650 * ATAN(V(P,K)/24)}
G2 G2 K VALUE={(PWRS(V(7),1.35)+PWRS(V(7),1.35))/4500}
* Capacitances (typical).
C1 G K 15p
C2 G P 1.1p
C3 P K 8.4p
RGI G K 1MEG
.ENDS EL34
